US05183820
5,6-Dihydro-4-[(2-methylphenyl)amino]-2(1H)-pyridinone
A mixture of o-toluidine (943 mg) and 2,4-dioxopiperidine (1.0 g) was heated at 120° for 30 min. The oil was cooled, triturated with ether (30 ml) and the solvent was decanted to give the title compound (1.74 g), m.p. 155°-158°.

reactant | o-toluidine | 943 mg | NC=1C(=CC=CC1)C | C7H9N
reactant | 2,4-dioxopiperidine | 1.0 g | O=C1NCCC(C1)=O | C5H7NO2
product | 5,6-Dihydro-4-[(2-methylphenyl)amino]-2(1H)-pyridinone | 1.74 g | CC1=C(C=CC=C1)NC1=CC(NCC1)=O | C12H14N2O
